US08563539B2
An 8 mL round bottomed vial was charged with 1-(p-tolyl)piperazine (56 mg, 0.318 mmol, 1 equiv.) and DMSO (1 mL, 0.3 M), DiPEA (105 μL, 0.636 mmol, 2 equiv.), (Z)-5-((6-bromopyridin-2-yl)methylene)thiazolidine-2,4-dione (91 mg, 0.318 mmol, 1 equiv.), and the vial was purged with argon. The mixture was shaken for 48 h at 110° C. The reaction mixture was then partitioned between CH2Cl2 (10 mL) and sat. NaCl (20 mL). The aqueous layer was back extracted with CH2Cl2 (2×15 mL) and the combined organic layer was dried over xxx and concentrated under reduced pressure to provide an orange residue. The orange residue was triturated with ether (3×15 mL) to provide (Z)-5-((6-(4-(p-tolyl)piperazin-1-yl)pyridin-2-yl)methylene)thiazolidine-2,4-dione as an orange solid (65 mg, 122 mg theoretical, 53%). LC-MS m/z: 382 (M+1).

reactant | 1-(p-tolyl)piperazine | 0.318 mmol, 56 mg, 1 equiv. | C1(=CC=C(C=C1)N1CCNCC1)C | C11H16N2
reactant | DiPEA | 0.636 mmol, 105 μL, 2 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | (Z)-5-((6-bromopyridin-2-yl)methylene)thiazolidine-2,4-dione | 0.318 mmol, 91 mg, 1 equiv. | BrC1=CC=CC(=N1)\C=C/1\C(NC(S1)=O)=O | C9H5BrN2O2S
solvent | DMSO | 0.3 M, 1 mL | CS(=O)C | C2H6OS
product | (Z)-5-((6-(4-(p-tolyl)piperazin-1-yl)pyridin-2-yl)methylene)thiazolidine-2,4-dione | C1(=CC=C(C=C1)N1CCN(CC1)C1=CC=CC(=N1)\C=C/1\C(NC(S1)=O)=O)C | C20H20N4O2S
